US09227918B2
To a solution of 2.29 g (8.09 mmol) of dimethyl 5-(1-hydroxy-2-nitroethyl)isophthalate in 50 mL of DCM and 10 mL of acetic anhydride at 22° C. was added 100 mg of 4-dimethylaminopyridine. The solution was stirred at 22° C. for 1.5 h, evaporated and then coevaporated with xylenes (the material darkened slightly). The residue was partitioned between 100 mL of DCM and 50 mL of 1 N HCl. The organic layer was washed with water (50 mL), satd NaHCO3, dried (Na2SO4) and evaporated. The resulting residue was purified by flash chromatography on silica gel eluting with DCM to give dimethyl 5-(2-nitrovinyl)isophthalate as a light yellow solid.

reactant | dimethyl 5-(1-hydroxy-2-nitroethyl)isophthalate | 8.09 mmol, 2.29 g | OC(C[N+](=O)[O-])C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C12H13NO7
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | dimethyl 5-(2-nitrovinyl)isophthalate | [N+](=O)([O-])C=CC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C12H11NO6
